US05728686
a) 7-Benzyl-3-methylxanthine
16.8 g (0.7 mol) of sodium hydride were introduced in portions with stirring into a suspension of 99.6 g (0.6 mol) of 3-methylxanthine in 1.5 l of dimethylformamide. After evolution of hydrogen had ended, the mixture was heated to 100° C., treated dropwise with 76 g (0.6 mol) of benzyl chloride and heated at 120° C. for a further 6 hours. The reaction mixture was cooled and cautiously poured into 3 l of water. The solid was filtered off with suction and washed with water, the filter residue was taken up in ethanol and the solution was stirred at room temperature for one hour. The crystallizate was filtered, washed with ethanol and dried under reduced pressure.

reactant | sodium hydride | 0.7 mol, 16.8 g | [H-].[Na+]
reactant | 3-methylxanthine | 0.6 mol, 99.6 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | hydrogen | [H][H] | H2
reactant | benzyl chloride | 0.6 mol, 76 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 1.5 l | CN(C=O)C | C3H7NO
solvent | water | 3 l | O | H2O
product | 7-Benzyl-3-methylxanthine | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C | C13H12N4O2
